US05294638
7 g 4-[2-((1S,2S,5S)-6,6-dimethylbicyclo[3,1,1]hept-2-yl)-ethoxy]-butyl chloride, 5.8 g N-methyl-homoveratrylamine, 4 ml triethylamine and a catalytic quantity of potassium iodide were refluxed in 10 ml acetonitrile for 8 hours. Then the reaction was stopped and 150 ml dichloromethane were added to the reaction mixture after it had become cold. The resulting solution was washed with 70 ml aqueous 2N sodium hydroxide solution and then twice with water, dried over sodium sulfate, and the solvent was distilled off. The crude title compound which remained as a residue was purified by chromatography on silica gel using ethyl acetate/methanol (8:2) as eluent. 4.8 g N-(4-[2-((1S,2S,5S)-6,6-dimethylbicyclo[3,1,1]hept-2-yl)-ethoxy]butyl)-N-[2-(3,4-dimethoxyphenyl)ethyl]-N-methylamine were obtained. Rf value=0.2. In addition, it was possible to isolate 2.3 g of unreacted 4-[2-((1S,2S,5S)-6,6-dimethylbicyclo[ 3,1,1]hept-2-yl)ethoxy]-butyl chloride. Rf value=0.6.

reactant | 4-[2-((1S,2S,5S)-6,6-dimethylbicyclo[3,1,1]hept-2-yl)-ethoxy]-butyl chloride | 7 g | CC1([C@H]2CC[C@H]([C@@H]1C2)CCOCCCCCl)C | C15H27ClO
reactant | N-methyl-homoveratrylamine | 5.8 g | CNCCC1=CC(OC)=C(OC)C=C1 | C11H17NO2
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | N-(4-[2-((1S,2S,5S)-6,6-dimethylbicyclo[3,1,1]hept-2-yl)-ethoxy]butyl)-N-[2-(3,4-dimethoxyphenyl)ethyl]-N-methylamine | 4.8 g | CC1([C@H]2CC[C@H]([C@@H]1C2)CCOCCCCN(C)CCC2=CC(=C(C=C2)OC)OC)C | C26H43NO3
